Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][N:2]([CH3:3])[CH3:4].[O:5]=[C:6]1[CH2:7][CH2:8][CH2:9][CH2:10][c:11]2[c:12]1[nH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]21>>[CH:1]([N:2]([CH3:3])[CH3:4])=[C:7]1[C:6](=[O:5])[c:12]2[c:11]([c:19]3[c:14]([nH:13]2)[cH:15][cH:16][cH:17][cH:18]3)[CH2:10][CH2:9][CH2:8]1,[O:5]=[C:6]1[CH2:7][CH2:8][CH2:9][CH2:10][c:11]2[c:12]1[nH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]21.[O:101]=[CH:1][N:2]([CH3:3])[CH3:4].[OH-:301]>>[CH:1]([N:2]([CH3:3])[CH3:4])=[C:7]1[C:6](=[O:5])[c:12]2[c:11]([c:19]3[c:14]([nH:13]2)[cH:15][cH:16][cH:17][cH:18]3)[CH2:10][CH2:9][CH2:8]1,aldol_condensation,"[(301, 7.1), ([7.1, 7], [7, 6]), ([6, 5], 5), (5, [5, 6]), ([6, 7], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 7.1), ([7.1, 7], [7, 6]), ([6, 5], 5), (5, [5, 6]), ([6, 7], [7, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:1]=[C:2]([NH:3][CH:4]([C:5](=[O:6])[O:7][C@H:8]1[CH2:9][N:10]2[CH2:11][CH2:12][CH:13]1[CH2:14][CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.Cl[CH2:30][C:29](=[O:28])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[O:1]=[C:2]([NH:3][CH:4]([C:5](=[O:6])[O:7][C@H:8]1[CH2:9][N+:10]2([CH2:30][C:29](=[O:28])[c:32]3[cH:33][cH:34][cH:35][cH:36][cH:37]3)[CH2:11][CH2:12][CH:13]1[CH2:14][CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,[O:1]=[C:2]([NH:3][CH:4]([C:5](=[O:6])[O:7][C@H:8]1[CH2:9][N:10]2[CH2:11][CH2:12][CH:13]1[CH2:14][CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[Cl:101][CH2:30][C:29](=[O:28])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[O:1]=[C:2]([NH:3][CH:4]([C:5](=[O:6])[O:7][C@H:8]1[CH2:9][N+:10]2([CH2:30][C:29](=[O:28])[c:32]3[cH:33][cH:34][cH:35][cH:36][cH:37]3)[CH2:11][CH2:12][CH:13]1[CH2:14][CH2:15]2)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,SN2,"[(10, 30), ([30, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[CH2:9][NH:10][C:11](=[O:12])[C@@H:13]1[CH2:14][CH2:15][CH2:16][N:17]1[C:18](=[O:19])[C@@H:20]([NH:21][C:22](=[O:23])[O:24][CH2:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[CH:32]([CH3:33])[CH3:34])=[O:35].[CH3:36][O:37][C:38](=[O:39])[CH2:40][NH2:41]>>[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[CH2:9][NH:10][C:11](=[O:12])[C@@H:13]1[CH2:14][CH2:15][CH2:16][N:17]1[C:18](=[O:19])[C@@H:20]([NH:21][C:22](=[O:23])[O:24][CH2:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[CH:32]([CH3:33])[CH3:34])(=[O:35])[NH:41][CH2:40][C:38]([O:37][CH3:36])=[O:39],[OH:101][C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[CH2:9][NH:10][C:11](=[O:12])[C@@H:13]1[CH2:14][CH2:15][CH2:16][N:17]1[C:18](=[O:19])[C@@H:20]([NH:21][C:22](=[O:23])[O:24][CH2:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[CH:32]([CH3:33])[CH3:34])=[O:35].[CH3:36][O:37][C:38](=[O:39])[CH2:40][NH2:41].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[CH2:9][NH:10][C:11](=[O:12])[C@@H:13]1[CH2:14][CH2:15][CH2:16][N:17]1[C:18](=[O:19])[C@@H:20]([NH:21][C:22](=[O:23])[O:24][CH2:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[CH:32]([CH3:33])[CH3:34])(=[O:35])[NH:41][CH2:40][C:38]([O:37][CH3:36])=[O:39],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (41, 1), ([1, 35], 35), (303, 41.1), ([41.1, 41], 41), (35, [35, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
